US04505910
To a suspension of 2-cyano-3,3-bis(methylthio)-2-propenoic acid, methyl ester (8.12 g) in dimethoxyethane (13 mL) was added (2-propenyl)amine (2.51 g). The mixture dissolved. After about 15 min the solvent was evaporated under nitrogen and the solid residue was filtered with diethyl ether to give 2-cyano-3-methylthio-3-(2-propenyl)amino-2-propenoic acid, methyl ester (8.61 g).

reactant | 2-cyano-3,3-bis(methylthio)-2-propenoic acid, methyl ester | 8.12 g | C(#N)C(C(=O)OC)=C(SC)SC | C7H9NO2S2
reactant | (2-propenyl)amine | 2.51 g | C(C=C)N | C3H7N
solvent | dimethoxyethane | 13 mL | C(OC)COC | C4H10O2
product | 2-cyano-3-methylthio-3-(2-propenyl)amino-2-propenoic acid, methyl ester | 8.61 g | C(#N)C(C(=O)OC)=C(NCC=C)SC | C9H12N2O2S
